US03953601
PREPARATION OF 2-BROMODIBENZOTHIOPHENE
Dibenzothiophene (27.6 g, 0.15 mole) was dissolved in 125 ml chloroform. Bromine (24.0 g, 0.15 mole) in 25 ml chloroform was added dropwise and the mixture was kept at room temperature for 23 hours.

reactant | Dibenzothiophene | 0.15 mole, 27.6 g | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | Bromine | 0.15 mole, 24.0 g | BrBr | Br2
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-BROMODIBENZOTHIOPHENE | BrC1=CC2=C(SC3=C2C=CC=C3)C=C1 | C12H7BrS
